reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](=[C:2]([H:11])[H:12])([H:8])[H:9].[C:3](=[O:4])([H:13])[H:14].[C:5](=[O:6])([N:7]([H:15])[H:16])[H:10]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],51.805559715727995
[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][c:3]1[n:4]([H:11])[n:5][c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],47.6568108295373
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[O:1]([C@@:2]([C:3]([C:4]([O:5][H:12])=[C:6]([H:13])[H:14])([H:10])[H:11])([C:7][H:15])[H:9])[H:8],73.1054591838368
[C:1]([C@@:2]([C:3]([N+:5]#[C-:4])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],39.28546988065641
[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2](=[C:3]([H:10])[H:11])[H:9])[H:7].[O:4]=[C:5]([O:6][H:8])[H:12],51.21718331127979
[C:1]([O:2][H:16])([H:7])([H:8])[H:9].[C@:3]1([C:4]([H:11])([H:12])[H:13])([H:10])[C:5]([H:14])([H:15])[O:6]1>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],52.253757497726696
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C-:2]=[O+:3][C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],105.239033828668
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:4](=[C:3]([H:11])[H:12])[H:13])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],84.351437900806
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[H:11])([H:8])([H:9])[H:10].[C:4](=[O:5])=[C:6]=[C:7]([H:12])[H:13],43.305770967543204
[C:1]([C:2]([O:3][C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([H:12])([H:13])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([O:6][H:16])[H:14],87.0041006114002
[C:1]([O:2][C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O:2][H:13])([H:6])([H:7])[H:8].[C:3]([C:4](=[O:5])[H:12])([H:9])([H:10])[H:11],72.1854273755491
[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:6](/[C:4]([N:3]([C+:2]([H:11])[H:12])[H:13])=[N:5]\[H:14])=[N-:7])([H:8])([H:9])[H:10],103.074666318947
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:10])([H:12])[H:13].[N:1]([C:2]([O-:3])=[C+:4][H:11])([H:8])[H:9],92.7659844286084
[O:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[C:4]#[N:5]>>[O:1]=[C:2]([C:3]([C:4]#[N:5])([H:7])[H:8])[H:6],62.070979465209476
[C:1]([O:2][H:12])([H:8])([H:9])[H:10].[C:3](=[O:4])=[C:5]([C:6]([O:7][H:15])([H:13])[H:14])[H:11]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],36.656108575050794
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([O:3][H:12])[H:11])([H:8])[H:10].[C:4](=[O:5])=[C:6]=[C:7]([H:9])[H:13],56.5223185078928
[O:1]([C:2]([C:3](=[O+:7][C-:6]([C:5]([C:4]([H:12])([H:13])[H:16])([H:14])[H:15])[H:17])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C:6]([H:16])([H:17])[O:7]1)([H:9])[H:10])[H:8],53.234345060254796
[C:1](/[C:2](=[C:4](\[C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])[H:15])[H:11])([H:8])([H:9])[H:10].[C:3]([H:12])([H:13])([H:14])[H:16]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],93.21983816008668
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2][C:3]([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:11])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],69.0989898148792
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:6]([N:5]=[C:4]=[C:3]([H:12])[H:13])=[C:7]1[H:14])([H:8])([H:9])[H:10],97.9281378059054
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:6]/[C:5](=[N:4]/[H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9],51.56180102415651
[C:1](=[C:2]([H:10])[H:11])([H:8])[H:9].[C:3](=[N:4]\[O:5][H:12])(\[C:6]([H:13])([H:14])[H:15])[H:7]>>[C:1]([C:2](/[C:3](=[N:4]\[O:5][H:12])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],71.6497437601848
[C:1]([N+:2]([C:3](=[C:4]([O-:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],28.597064400046513
